US04774235
A mixture consisting of the crude dineophyl-parafluorophenyltin chloride (50 g) and potassium fluoride (5.8 g, 0.1 mol) was heated for 2 hours in the presence of benzene (120 g) and water (23 g). The aqueous layer of the reaction mixture was removed, and the organic layer was washed with water, filtered and concentrated under reduced pressure. The residue thus obtained was crystallized from petroleum ether to give 38.5 g of dineophyl-parafluorophenyltin fluoride as a white solid.

reactant | dineophyl-parafluorophenyltin chloride | 50 g | C(C(C)(C)C1=CC=CC=C1)[Sn](C1=CC=C(C=C1)F)(CC(C)(C)C1=CC=CC=C1)Cl
reactant | potassium fluoride | 0.1 mol, 5.8 g | [F-].[K+]
reactant | benzene | 120 g | C1=CC=CC=C1 | C6H6
solvent | water | 23 g | O | H2O
product | dineophyl-parafluorophenyltin fluoride | 38.5 g | C(C(C)(C)C1=CC=CC=C1)[Sn](C1=CC=C(C=C1)F)(CC(C)(C)C1=CC=CC=C1)F | InChI=1S/2C10H13.C6H4F.FH.Sn/c2*1-10(2,3)9-7-5-4-6-8-9;7-6-4-2-1-3-5-6;;/h2*4-8H,1H2,2-3H3;2-5H;1H;/q;;;;+1/p-1
